US06936602B1
To a solution of 7-bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one (5.0 g), propionaldehyde (15 ml) and acetic acid (4.7 ml) in 1,2-dichloroethane (250 ml) was added sodium triacetoxyborohydride (22.0 g) at room temperature, and the mixture was stirred for 6 hours. To the reaction system was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous solution of sodium hydrogen carbonate and saturated brine, and dried with magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified with column chromatography (ethyl acetate:hexane=1:4) to give 7-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one (5.89 g) as yellow oil.

reactant | 7-bromo-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one | 5.0 g | BrC=1C=CC2=C(C(CCCN2)=O)C1 | C10H10BrNO
reactant | propionaldehyde | 15 ml | C(CC)=O | C3H6O
reactant | acetic acid | 4.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 22.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 7-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzazepine-5-one | 5.89 g | BrC=1C=CC2=C(C(CCCN2CCC)=O)C1 | C13H16BrNO
